US05723173
When the dispersion of the solid polymer electrolyte was added to organic solvents having a dielectric constant of less than 3, such as n-hexane, benzene, toluene, p-xylene and dodecane having dielectric constants of 1.89, 2.28, 2.38, 2.27 and 2.02, respectively, the solid polymer electrolyte produced a white precipitate and the polarization characteristics of the cells could hardly be taken out.

reactant | n-hexane | CCCCCC | C6H14
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | p-xylene | CC=1C=CC(=CC1)C | C8H10
product | dodecane | CCCCCCCCCCCC | C12H26
